US08049016B2
Synthesis of 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide
Following the procedure as described in Example 1, making variations as required to replace 2-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylic acid with 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid, the title compound was obtained as a colorless solid in 5% yield: mp 198-200° C. (methanol/hexanes); 1H NMR (300 MHz, DMSO-d6) δ 7.29 (s, 2H), 4.02-3.97 (m, 2H), 3.67-3.62 (m, 2H), 3.10 (d, J=7.1 Hz, 2H), 2.45 (s, 3H), 0.99-0.90 (m, 1H), 0.52-0.46 (m, 2H), 0.25-0.20 (m, 2H); 13C NMR (75 MHz, DMSO-d6) δ 163.5, 157.5, 154.7, 155.7, 118.2, 47.7, 41.9, 41.8 17.0, 8.8, 3.1; MS (ES+) m/z 281.1 (M+1).

reactant | 2-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylic acid | FC1=CC=C(CN2N=CN(C2=O)C=2SC(=C(N2)C)C(=O)O)C=C1 | C14H11FN4O3S
reactant | 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C1(CC1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C12H15N3O3S
product | 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide | 5% yield | C1(CC1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)N)=O | C12H16N4O2S
